Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics) / Erythromycin 
Base / clindamycin / lisinopril
 
Attending: ___.
 
Chief Complaint:
inability to tolerate PO, nausea, and vomiting

 
Major Surgical or Invasive Procedure:
___ G-J tube placement (___) 

 
History of Present Illness:
Mrs. ___ is a pleasant ___ years old Female who presents to
___ ED for the further evaluation of inability to tolerate PO
intake associated with nausea and NBNB vomiting. She was 
recently
admitted on ___ for nausea/vomiting attributed to ileus
complicated by her malignant ascites. Patient was to have a
G-tube placed during the admission however the procedure was
delayed and the patient left AMA on ___. Since discharge, she
was attempting gradual increase in PO intake with fluids and
bland foods but has been unable to keep foods/liquids down. This
has been refractory to her home oral Haldol and Ativan. Patient
states she has multiple bowel movements, some loose, and has 
been
passing gas from below. She also endorses mild abdominal
discomfort unchanged from baseline. She denies any fever, 
chills,
chest pain, or shortness of breath.
 
In the ED, initial vitals: 98.0 120 114/86 16 98% RA

REVIEW OF SYSTEMS:

A complete 10-point review of systems was performed and was
negative unless otherwise noted in the HPI. 
 
Past Medical History:
PMH: migraines, HTN, depression, PE
PSH: ___ breast reduction  
ObGyn: G0, dysmenorrhea, abnormal pap ___  

PAST ONCOLOGIC HISTORY:
- Pt presented with pelvic pain, irregular menses, infertility
with endometriosis suspected
- ___ underwent laparoscopy significant for omental caking
and peritoneal studding. Biopsy showed low grade papillary 
serous
neoplasm most consistent with Mullerian origin
- ___ underwent optimal debulking with resection of pelvic
tumor, TAH/BSO, rectosigmoid resection. Pathology showed
low-grade serous carcinoma arising in association with right
ovarian serous borderline tumor involving bilateral tubes and
ovaries, uterus, rectosigmoid, omentum, appendix. There were 
also
abdominal nodules at prior laparoscopic port sites that were
excised with disease involvement.
- ___ IV carboplatin/paclitaxel C1D1
- ___ IP port placed
- ___ IV/IP cisplatin/paclitaxel C1D1 (C2 of chemo overall)
- ___ IV/IP cisplatin/paclitaxel C2D1 (C3 of chemo overall)
- ___ IV/IP cisplatin/paclitaxel C3D1 (C4 of chemo overall)
- ___ BRCA negative
- ___ IV/IP cisplatin/paclitaxel C4D1 (C5 of chemo overall)
- ___ IV/IP cisplatin/paclitaxel C5D1 (C6 of chemo overall)
- ___ CA125 16, up from 13
- ___ repeat CA125 stable at 16
- ___ CT AP- enlarged right perirectal lymph node which
measures 14 x 11 mm, suspicious for disease involvement. 
- ___ CA125 up to 24, from ___
- ___ CT AP- right perirectal LN- 1.4 x 1.2 cm, previously
1.4 x 1.1 cm; Several prominent retroperitoneal lymph nodes are
similar to the prior study, allowing for differences in
measurement technique and slice selection.
- ___ CA125 up to 34 from 24
- ___ started Anastrozole
- ___ CT AP shows stable disease
- ___ CA125 increase to 42 from 22
- ___ CT AP showed disease progression
- ___ 6 cycles weekly Taxol 60mg/Carboplatin AUC 2 

- Resumed anastrozole 
-  ___  disease progression on CT w/ rise in CA125;  New 
nodule
at the resection bed and interval enlargement of right
lower quadrant and anterior abdominal wall metastases 
-  ___ to present  Gem, ___, Avastin
-  Cycle 4 - held D8 d/t elevated LFTs
-  ___ Cycle 5, omitted D8 due to fatigue 
- ___ - present ___ maintenance
-  ___  CT  Rising CA 125 prompted CT that shows only very
slight progression in some areas with other areas of response
from recent treatment.
-  ___  Faslodex
- ___ - C1D1 nivolumab/bevacizumab/rucaparib
-___ - admission for grade 3 colitis, attributed to 
nivolumab
-___ - begin steroid taper 
-___ - resume rucaparib
-___ - Admitted for progressive grade 3 rash.
Rucaparib held;  discharged on prednisone 90mg daily 
-___ - resume bevacizumab
-  ___  PE - end of study
- ___  admitted for transaminitis, liver bx - drug
effect ?IRAE
- ___ admitted for cellulitis ___ paracentesis
 
Social History:
___
Family History:
Her mother and father both living in their ___. She has no 
family history of breast, ovarian, uterine, cervical, vaginal or 
colon cancers
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
Vitals: ___ 0115 Temp: 98.0 PO BP: 134/84 HR: 121 RR: 20 O2
sat: 98% O2 delivery: RA 
GENL: pleasant, NAD
HEENT: NCAT, PERRL, EOMI, sclerae anicteric, dry mucous
membranes, no ulcers / lesions / thrush
NECK:  supple, normal range of motion
CARD: tachycardic; normal S1, S2, no murmurs
PULM: clear to auscultation bilaterally w/o wheezes / rhonchi /
rales  
ABDM: Well-healed midline scar, distended, normoactive bowel
sounds, firm (this is her baseline), mild diffuse tenderness to
palpation without rebound
MSK: no joint swelling or erythema  
EXTR: warm and well perfused, no edema
SKIN: warm, dry, no rashes, no jaundice
PSYCH: non-anxious, normal affect
GENITOURINARY: No suprapubic tenderness or Foley
NEURO: Alert and oriented x3, face symmetric, moves all
extremities, fluent speech
ACCESS: R Power port

DISCHARGE PHYSICAL EXAM:
========================
Vitals: 24 HR Data (last updated ___ @ 2319)
    Temp: 98.1 (Tm 98.5), BP: 125/86 (118-135/60-93), HR: 74
(74-79), RR: 18 (___), O2 sat: 98% (97-99), O2 delivery: RA,
Wt: 119.1 lb/54.02 kg  
GENL: sitting up in bed, in NAD
HEENT: NCAT, PERRL, EOMI, sclerae anicteric, MMM; no oral 
lesions or thrush
NECK:  supple, normal range of motion
CARD: RRR; normal S1, S2, no murmurs
CHEST: R power port
PULM: clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
ABDM: Well-healed midline scar, distended, normoactive bowel 
sounds, firm (this is her baseline), mild diffuse tenderness to 
palpation without rebound. Dressing on perc G-J tube clean, dry, 
intact. Tubing draining greenish yellow fluid.
MSK: no joint swelling or erythema  
EXTR: no peripheral edema
SKIN: warm, dry, no rashes, no jaundice
GENITOURINARY: No suprapubic tenderness or Foley
PSYCH: mildly anxious, speech is clear
NEURO: Alert and oriented x3, face symmetric, moves all 
extremities, fluent speech

 
Pertinent Results:
ADMISSION LABS
==============
___ 06:30PM   GLUCOSE-81 UREA N-7 CREAT-0.7 SODIUM-138 
POTASSIUM-4.0 CHLORIDE-97 TOTAL CO2-25 ANION GAP-16
___ 06:30PM   CALCIUM-9.4 PHOSPHATE-4.0 MAGNESIUM-1.4*
___ 06:30PM   WBC-2.8* RBC-3.26* HGB-9.3* HCT-29.3* MCV-90 
MCH-28.5 MCHC-31.7* RDW-15.0 RDWSD-49.6*
___ 06:30PM   NEUTS-47.2 ___ MONOS-7.1 EOS-0.0* 
BASOS-0.0 IM ___ AbsNeut-1.32* AbsLymp-1.26 AbsMono-0.20 
AbsEos-0.00* AbsBaso-0.00*

INTERVAL LABS
=============
___ 05:19AM BLOOD WBC-2.0* RBC-3.14* Hgb-9.0* Hct-29.1* 
MCV-93 MCH-28.7 MCHC-30.9* RDW-15.6* RDWSD-51.4* Plt ___
___ 04:55AM BLOOD Neuts-27.3* Lymphs-58.3* Monos-14.0* 
Eos-0.0* Baso-0.0 Im ___ AbsNeut-0.64* AbsLymp-1.37 
AbsMono-0.33 AbsEos-0.00* AbsBaso-0.00*
___ 05:19AM BLOOD ___ PTT-26.1 ___
___ 07:18PM BLOOD Glucose-99 UreaN-5* Creat-0.6 Na-137 
K-4.1 Cl-99 HCO3-25 AnGap-13
___ 07:18PM BLOOD Calcium-7.9* Phos-2.4* Mg-2.2

DISCHARGE LABS
===============

___ 05:00AM BLOOD WBC-11.0* RBC-3.05* Hgb-8.6* Hct-28.3* 
MCV-93 MCH-28.2 MCHC-30.4* RDW-17.8* RDWSD-53.1* Plt ___
___ 05:00AM BLOOD Glucose-73 UreaN-22* Creat-0.7 Na-140 
K-3.6 Cl-99 HCO3-26 AnGap-15
___ 05:00AM BLOOD Calcium-8.4 Phos-3.0 Mg-1.5* (repleted)

IMAGING
=======
___ PORTABLE ABDOMEN
IMPRESSION:  
No definite change in gastric jejunostomy tube. 

___
ABD US 
IMPRESSION:  
Small volume ascites, predominantly perihepatic, is amenable to 
paracentesis if clinically indicated. 

STUDIES/PROCEDURES
==================
___ PERC G/G0J TUBE PLACEMENT  
1. Successful placement of a 16 ___ MIC gastrojejunostomy 
tube with its tip in the proximal jejunum. 
2.  Dilated loops of small bowel were noted after jejunal 
opacification. 
3.  Paracentesis, with approximately 2200 cc of ascitic fluid 
drained. 

 
Brief Hospital Course:
Outpatient Providers: TRANSITIONAL ISSUES:
====================
#G tube:
[ ] Keep G tube to gravity during the day. Please connect to 
suction for 1 hour three times throughout the day, and as needed 
for bloating/nausea. 
[ ] Please cap G tube for 1 hour following medications by mouth
[ ] Patient will follow-up with Interventional Radiology for 
monitoring and management of G-J tube.
[ ] If your G tube starts to have bloody output, please stop 
your apixaban and call your oncologist.

#Nutrition:
[ ] Please try to keep the tube feeds on for as long as possible 
throughout the day (at least 12 hours). If you feel that you are 
doing ok and can try a little more, let your visiting nurse 
know, and the rate of the tube feeds can be increased. Your goal 
tube feed rate is 45 ml/hr for 24 hours. 
[] Please try to take in as many liquids as possible, such as 
juice, popsicles, or broth. Please avoid caffeinated or 
carbonated beverages, and alcohol.

# Pulmonary Embolism 
[ ] Continue apixaban 5mg twice a day (we considered switching 
to Lovenox, but you were able to tolerate pills again by the end 
of the hospitalization.) If your G tube starts bleeding, hold 
the apixaban and call your oncologist. 

# Depression:
[ ] Continue sertraline at 50mg per day until you see a doctor 
in clinic and have an EKG to check your QTc interval. If it is 
stable, you can talk to your doctor about going back up to your 
100mg dose. 

#CODE: full 
#CONTACT: ___ 
Relationship: spouse 
Phone number: ___ 

PATIENT SUMMARY
================
___ is a ___ yo woman with stage IVB low grade, recurrent 
ovarian cancer with platinum-sensitive recurrent disease, most 
recently treated with ___ who represented after an AMA 
discharge with nausea/vomiting, now s/p ___ placement of a G-J 
tube on ___. 

ACUTE ISSUES:
=============
#Nausea/vomiting:
#Abdominal pain 
#Partial small bowel obstruction:
#Severe malnutrition:
Patient re-presented with nausea/vomiting shortly after an AMA 
discharge for the same chief complaint. She was afebrile on 
admission, tachycardic but HD stable. She underwent G-J tube 
placement on ___ for alleviation of nausea/vomiting, and 2.2L 
paracentesis intraoperatively. QTc was 560 on admission and 
QT-prolonging agents were discontinued, particularly Haldol. 
G-tube was draining well and pt was started on tube feeds 
through J-tube. Her anti-nausea regimen was titrated daily, with 
the final regimen including ODT Zofran, PO dexamethasone, ODT 
Zyprexa, and liquid Tylenol. Patient will go home on trickle 
tube feeds, supplementing PO as tolerated, and with a gastric 
suction tube at home prn.

# Recurrent ovarian cancer with platinum-sensitive recurrent 
disease:
Pt started treatment on ___ and underwent C1D7 ___ 
on
___. WBC 2.1, with ANC of 640 on admission. Counts recovered 
fully by discharge. 

CHRONIC ISSUES:
===============
# Depression
Sertraline was held in the setting of long QTc, then slowly 
restarted at a lower dose. On day of discharge, QTc was 429 on 
___, discharged on 50mg Sertraline.

# PE
Apixaban was held for procedure, and restarted home dose 5mg BID 
on ___.

This patient was prescribed, or continued on, an opioid pain 
medication at the time of discharge (please see the attached 
medication list for details). As part of our safe opioid 
prescribing process, all patients are provided with an opioid 
risks and treatment resource education sheet and encouraged to 
discuss this therapy with their outpatient providers to 
determine if opioid pain medication is still indicated. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. LORazepam 1 mg PO Q6H:PRN nausea and vomiting 
2. Apixaban 5 mg PO BID 
3. Cetirizine 10 mg PO DAILY 
4. Sertraline 50 mg PO DAILY 
5. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Moderate 

6. Haloperidol 0.5 mg PO TID:PRN nausea and vomiting 

 
Discharge Medications:
1.  Bisacodyl ___AILY 
RX *bisacodyl 10 mg 1 suppository(s) rectally daily as needed 
Disp #*30 Suppository Refills:*0 
2.  Dexamethasone 4 mg PO BID 
RX *dexamethasone 4 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
3.  OLANZapine (Disintegrating Tablet) 2.5 mg PO BID 
RX *olanzapine 5 mg 0.5 (One half) tablet(s) by mouth nightly 
Disp #*30 Tablet Refills:*0
RX *olanzapine 5 mg 0.5 (One half) tablet(s) by mouth twice a 
day Disp #*30 Tablet Refills:*0 
4.  Ondansetron ODT 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 

RX *ondansetron 4 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*60 Tablet Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Second 
Line 
RX *polyethylene glycol 3350 17 gram/dose 17 g by mouth once a 
day Refills:*0 
6.  Apixaban 5 mg PO BID  
7.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate  
8.  Sertraline 50 mg PO DAILY  
9.Portable gastric suction machine

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
Partial small bowel obstruction

SECONDARY DIAGNOSES:
====================
Recurrent ovarian cancer 
Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,
 
___ was a pleasure caring for you at ___ 
___.  
 
WHY WAS I IN THE HOSPITAL?  
- You were admitted for nausea/vomiting.
 
WHAT HAPPENED TO ME IN THE HOSPITAL?  
- A G-J tube was placed to help vent excess gas, as well as to 
provide tube feeds for nutrition.
- You were started on tube feeds. 
- Your EKG (heart rhythm) was monitored. 
- Your nausea medications were adjusted. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  
- Please continue trying to take in as much nutrition as 
possible, whether by mouth or tube feeds through the J tube.

We wish you the best!  
 
Sincerely,  
Your ___ Team

 
Followup Instructions:
___